US07910613B2
1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone (13.24 g, 70.4 mmol) was dissolved in acetone (300 mL). MeI (4.6 mL, 73.9 mmol) and KCO3 (10.68 g, 77.4 mmol) were added and the reaction mixture was heated to reflux for 30 min. The reaction mixture was filtered and the solvent was removed in vacuo. The crude product contains a mixture of 2-(1-methyl-1H-tetrazol-5-yl)-1-phenyl-ethanone and 2-(2-methyl-2H-tetrazol-5-yl)-1-phenyl-ethanone. The two compounds were separated by flash column chromatography using ethyl acetate/hexane (6/4) as eluent. 2-(1-Methyl-1H-tetrazol-5-yl)-1-phenyl-ethanone was obtained as a white solid. Yield: 34%.

reactant | 1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone | 70.4 mmol, 13.24 g | C1(=CC=CC=C1)C(CC=1N=NNN1)=O | C9H8N4O
reactant | MeI | 73.9 mmol, 4.6 mL | CI | CH3I
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 2-(1-Methyl-1H-tetrazol-5-yl)-1-phenyl-ethanone | Yield: 34% | CN1N=NN=C1CC(=O)C1=CC=CC=C1 | C10H10N4O
